US04071627
A solution of 41 g α-aminoisobutyraldoxime hydrochloride and 150 ml. of water was charged into a stirred flask and cooled to 0° C. Chlorine was added to the solution at 0° C until 22 g. had been taken up. The reaction mixture was stirred at 0° C for 30 minutes after the chlorine addition. Sodium hydroxide (6 g in 40 ml water) was added with stirring to neutralize the hydrochloric acid, after which a solution of 36 g of ethyl mercaptoacetate and 12 g of sodium hydroxide in 40 ml of water was added rapidly at 5° to 10° C. The mixture was warmed to 25° C and stirred overnight. The solid product was filtered, washed with water then dried at room temperature, to yield 7 g of 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one, m.p. 234°-236° C. An nmr spectrum and m.p. comparison showed the product to be identical with that from Example II.

reactant | α-aminoisobutyraldoxime hydrochloride | 41 g | Cl.NC(C=NO)(C)C
reactant | Chlorine | ClCl | Cl2
reactant | Sodium hydroxide | 40 ml, 6 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl mercaptoacetate | 36 g | SCC(=O)OCC | C4H8O2S
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | 2-oximino-3,3-dimethyltetrahydro-1,4-thiazin-5-one | 7 g | N(O)=C1SCC(NC1(C)C)=O | C6H10N2O2S
